US06509354B1
0.9 g (4.0 mmol) of 4-(5-chlorothiophen-2-yl)-2-fluorobenzonitrile and 0.9 g (4.3 mmol) of S-cyclopropylmethylisothiourea hydrobromide were allowed to react in the same manner as described above in Example 8 (4), and purification of the crude product by silica gel column chromatography afforded 1.1 g of 4-(5-chlorothiophen-2-yl)-2-cyclopropylmethylthiobenzonitrile (yield 91%) as yellow feathery crystals (m.p. 123-124° C.).

reactant | 4-(5-chlorothiophen-2-yl)-2-fluorobenzonitrile | 4.0 mmol, 0.9 g | ClC1=CC=C(S1)C1=CC(=C(C#N)C=C1)F | C11H5ClFNS
reactant | S-cyclopropylmethylisothiourea hydrobromide | 4.3 mmol, 0.9 g | Br.C1(CC1)CSC(N)=N
product | 4-(5-chlorothiophen-2-yl)-2-cyclopropylmethylthiobenzonitrile | 1.1 g, yield 91% | ClC1=CC=C(S1)C1=CC(=C(C#N)C=C1)SCC1CC1 | C15H12ClNS2
